Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ceftriaxone
 
Attending: ___
 
___ Complaint:
Failure to thrive and lethargy
 
Major Surgical or Invasive Procedure:
___ Core biopsy of abdominal lymphadenopathy, posterior 
approach
___ G-tube placement by ___

 
History of Present Illness:
As per HPI in H&P by Dr. ___ ___: "Mr. ___ is ___ 
yo M with h/o CVA with right sided hemiparesis in ___,  h/o 
ETOH as documented on admission in ___ at ___, HTN since a 
child, PE, prostate cancer, s/p right below the knee amputation 
in ___ at ___, PVD ischemic L foot ulcer who presented from his 
nursing home (___) with weakness and decreased oral 
intake.

Patient is able to indicate yes and no, but not verbally 
communicate. Per documentation, he is unable to communicate at 
baseline. On ___ he was found to have a right middle lobe 
infiltrate and started on Levaquin 500 for 7 days on ___. He 
has since had weakness, decreased PO intake and "increased HR". 
He
does not report pain. The ROS is limited secondary to patient's 
aphasia.

His daughter ___ is at the bedside. She reports that she has 
not seen him in months but when she saw him then, he looks the 
same as now. She is concerning about his continual weight loss 
and decreased appetite but these are chronic issues. She has no 
acute concerns about his health. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. "
 
Past Medical History:
Cerebral infarction
Hemiplegia involving the right side
Prostate cancer
HN
PE
S/p RAKA
Dysphagia
Reflux uropathy
Pressure ulcer of sacral region
Moderate protein 
PVD
SHX:
___
Family History:
He was unable to provide his family history given his aphasia.
 
Physical Exam:
ADMISSION EXAM:
VITALS: 
___ Temp: 100.9 Axillary BP: 102/60 HR: 119 RR: 18 O2 
sat: 93% O2 delivery: ra 
GENERAL: Alert and in no apparent distress. He is smiling and 
interactive. He answers only yes or no. He is thin and frail
EYES: Anicteric
ENT: Oropharynx with thick white discharge present 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Diminished BS thoughout with crackles in the R middle lobe 
bilaterally.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  
RECTAL: Vault with small amount of brown liquid stool
GU: No suprapubic fullness or tenderness to palpation. Firm 
prostate 30 mg
? prostatic tenderness
NEURO: Dense R hemiparesis Able to move L upper and LLE. Aphasic
MSK: dark ecchymosis on L  ___ toe very tender to the touch. ? 
Secondary to trauma. 2+ DPP appreciated by RN and author. 
SKIN: 2cm stage II  decubitus 
PSYCH: pleasant, smiling
================
DISCHARGE EXAM:
VITALS: ___ 0806 Temp: 99.6 PO BP: 106/61 HR: 97 RR: 18 O2 
sat: 97% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress, laying in bed, thin 
body habitus, does not answer questions verbally but 
communicates using head nods
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma.
CV: RRR, no murmur, 2+ radial pulses bilaterally
RESP: Lungs clear to auscultation with good air movement 
bilaterally anteriorly.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation except 
mildly tender in epigastric area.  Bowel sounds present.  G-tube 
present without leakage or tenderness.
GU: No Foley
MSK: Moves all extremities, left lower leg with trace edema, 
right above-knee amputation, LUE midline
SKIN: Left ___ toe crusted ulcer on dorsum without drainage or 
bleeding; known sacral ulcers covered with mepilex
NEURO: Alert, not able to assess orientation since he is 
aphasic,
face symmetric, answers with head nods and brief "ok" and "no" 
at times
PSYCH: Calm, cooperative
 
Pertinent Results:
ADMISSION LABS:
___ 04:37PM BLOOD WBC-14.4* RBC-2.92* Hgb-9.0* Hct-28.6* 
MCV-98 MCH-30.8 MCHC-31.5* RDW-16.5* RDWSD-56.8* Plt ___
___ 04:37PM BLOOD Neuts-57 ___ Monos-4* Eos-2 Baso-0 
NRBC-0.2* Plasma-1* AbsNeut-8.21* AbsLymp-5.18* AbsMono-0.58 
AbsEos-0.29 AbsBaso-0.00*
___ 04:37PM BLOOD ___ PTT-31.0 ___
___ 04:37PM BLOOD Glucose-100 UreaN-51* Creat-1.4* Na-150* 
K-4.7 Cl-118* HCO3-17* AnGap-15
___ 04:37PM BLOOD ALT-8 AST-22 AlkPhos-72 TotBili-1.1
___ 04:37PM BLOOD Albumin-2.4* Calcium-9.5 Phos-4.8* Mg-2.0
___ 05:00PM BLOOD Type-ART pO2-65* pCO2-28* pH-7.42 
calTCO2-19* Base XS--4
___ 05:00PM BLOOD Lactate-2.7*
___ 09:51PM BLOOD Lactate-2.1*
=======================
MICRO:
BCx x 2 (___): no growth
UCx (___): no growth
MRSA screen: negative
Legionella urine antigen negative
Strep pneumo urine antigen pending
C. diff stool: negative
Flu A/B PCR negative
=======================
IMAGING:
CXR (___):
IMPRESSION:  
No focal consolidation.  Apparent increased interstitial 
markings
in the mid upper lungs, right more so than left may be technical
however, suggest repeat with PA and lateral chest x-ray when
patient is amenable. 

CTA chest (___):
IMPRESSION:  
1.  Examination degraded by breathing artifact.  Within this
limitation no evidence of PE. 
2.  Findings concerning for pneumonia in the lower lobes
bilaterally 
3.  Right cervical, left axillary, mediastinal, internal mammary
bilaterally and retrocrural lymphadenopathy.  The evaluation of
the upper abdomen is limited on this examination however there 
is
concern for additional lymphadenopathy in the upper abdomen. 
Findings raise the possibility of lymphoma.  
RECOMMENDATION(S):  CT of the abdomen and pelvis with IV 
contrast
for evaluation of abdominopelvic lymphadenopathy and potentially
to determine biopsy target 

XR foot (___):
FINDINGS:  
The indication does not provide information as to which toe is 
of
concern.  The bones are diffusely osteopenic.  There is no acute
fracture or dislocation.  There are degenerative changes present
around the distal interphalangeal joints, first interphalangeal
joint as well as the second and third proximal interphalangeal
joints.  There is no erosions or abnormal periosteal reaction
identified.  There are no significant degenerative changes. 
Vascular calcification is present. 
IMPRESSION:  
No radiographic evidence of osteomyelitis.  Further evaluation
with an MRI or bone scan is recommended. 

CT abd/pelvis with contrast (___):
IMPRESSION:
1. Extensive retrocrural, mesenteric, retroperitoneal and 
bilateral pelvic lymphadenopathy, likely representing lymphoma.
2. Left adrenal mass and mesenteric soft tissue mass, also 
likely lymphoma.
3. Extensive bilateral perirenal soft tissue density in keeping 
with lymphomatous involvement.
4. Possible biopsy targets include retroperitoneal nodes (likely 
preferred if complete lymphoma protocol is planned) and 
perirenal soft tissue.
5. Extrahepatic biliary and main pancreatic duct dilation is of 
uncertain etiology, but a focal obstructing lesion is not 
identified on this study.  This could be followed up with MRCP 
if felt clinically indicated.

___ -- IMPRESSION: Successful CT guided core biopsy of a 
target left retroperitoneal lymph node. Samples were sent for 
pathology, flow cytometry and cytogenetics.

___ CytogeneticsTissue: BLOOD, NEOPLASTIC -- PENDING

___ PathologyTissue: Immunophenotyping - PB -- 
INTERPRETATION -- Nonspecific T-cell predominant lymphoid 
profile; diagnostic immunophenotypic features of involvement by 
leukemia are not seen in this specimen. 

___ CytogeneticsTissue: LYMPH NODE -- PENDING

___ PathologyTissue: IMMUNOPHENOTYPING-RETROPERITON -- 
Immunophenotypic features consistent with involvement by a kappa 
restricted plasma cell neoplasm.

___ PathologyTissue: LYMPH NODE CORE BIOPSY, HEME -- 
LYMPH NODE WITH MORPHOLOGIC AND IMMUNOPHENOTYPIC FEATURES 
SUGGESTIVE OF
INVOLVEMENT BY PLASMA CELL NEOPLASIA

___ UNILAT LOWER EXT VEINS -- no DVT

___ G-TUBE PLACEMENT: Successful placement of a 16 ___ 
MIC gastrostomy tube.

===================
DISCHARGE LABS:
___ 05:13AM BLOOD WBC-10.5* RBC-2.41* Hgb-7.3* Hct-23.4* 
MCV-97 MCH-30.3 MCHC-31.2* RDW-15.9* RDWSD-56.0* Plt ___
___ 05:13AM BLOOD Glucose-98 UreaN-13 Creat-0.6 Na-134* 
K-4.7 Cl-99 HCO3-23 AnGap-12
___ 05:13AM BLOOD Calcium-7.7* Phos-3.7 Mg-1.5*
___ 05:41AM BLOOD VitB___-___*
___ 05:55AM BLOOD calTIBC-147* Ferritn-298 TRF-113*
___ 05:41AM BLOOD PSA-<0.03
___ 05:41AM BLOOD PEP-ABNORMAL B FreeKap-415* 
FreeLam-145.7* Fr K/L-2.85* b2micro-7.8* IgG-3851* IgA-98 
IgM-<5* IFE-MONOCLONAL
 
Brief Hospital Course:
___ man w/PMHx L MCA CVA ___ resulting in right-sided 
hemiplegia, peripheral vascular disease, h/o prostate cancer and 
multiple myeloma with prior report of lymphadenopathy, and h/o 
DVT/PE who was recently treated for PNA at his SNF with a 5-day 
course of levofloxacin.  He presented with lethargy and fevers 
and was found to be septic most likely ___ HCAP, hypernatremia, 
and with diffuse lymphadenopathy on CTA chest and abdomen/pelvis 
concerning for lymphoma vs. other malignancy.

#Smoldering IgG kappa multiple myeloma, with plasma cells found 
on biopsy of lymphadenopathy this admission and on multiple 
prior biopsies over the last ___ years
#H/o prostate cancer
#H/o solitary nodule of lung
-Patient has received most of his hematology/oncology care at 
___
-He was transferred to ___ this time instead of there at the 
request of a family member (not ___ the proxy, another 
different family member)
-CTA CHEST incidentally showed diffuse lympadenopathy (right 
cervical, left axillary, mediastinal, internal mammary 
bilaterally and retrocrural).  CT abdomen pelvis also revealed 
extensive lymphadenopathy and soft tissue masses in his abdomen. 
This was concerning for lymphoma, especially in the setting of 
failure to thrive. Uric acid was elevated but other TLS labs 
have been normal.
-Allopurinol ___ mg daily (renally dosed) was started for 
hyperuricemia
-After discussion with the on-call hematologist oncologist at 
___ on ___, it appeared that the patient had prior 
lymphadenopathy, but that the abdominal lymphadenopathy now is 
much more significant and had not been previously observed
-We sent peripheral blood for flow, serum light chains (free 
kappa/lambda), SPEP, UPEP, quantitative immunoglobulins, beta-2 
microglobulin -- Hematology/Oncology interpreted findings have 
all been consistent with the patient's known multiple myeloma
-PSA was normal (less than 0.03)
-Interventional radiology performed a core biopsy of the 
retroperitoneal lymph node conglomerate on ___ 
-- prelim pathology was consistent with prior biopsy findings 
per ___ hematology/oncology fellow, who spoke by phone with 
the ___ Hematologist-Oncologist, Dr. ___, 
___
-No further workup or specific treatment at this time, the 
patient will follow up with Dr. ___ as an outpatient

#Failure to thrive
#Anorexia
#Severe protein calorie malnutrition
#Dysphagia
#Hypophosphatemia
#Hyponatremia
-His daughter reported that he has had very little PO intake for 
a few months at least.  His dysphagia, and depression may be 
contributing.
-Started thiamine on ___ (IV given he cannot take oral)
-SLP evaluation recommended NPO given the patient's high risk of 
aspiration and they felt that his prognosis for improvement was 
quite limited, and they felt that a G-tube was appropriate, even 
without trying a small bore nasogastric feeding tube ___
–The patient and his daughter (proxy) spoke about this issue 
several times and he made an informed decision to proceed with 
placement of the G-tube
-Interventional radiology placed a G-tube on ___
-Tube feeds started on ___ and he has been on Jevity 1.5 at 50 
cc/hr (goal) without problems
-Nutrition followed and he was monitored for refeeding syndrome
-He has required intermittent magnesium and phosphate repletion

#Left leg swelling
-Lower extremity Doppler was negative for clot
-Suspect mild volume overload from maintenance IV fluids while 
NPO as well as hypoalbuminemia secondary to malnutrition

# Hyponatremia: Improved to 134 by discharge.
-Decreased free water flushes for tube feeds to 50cc Q6H with 
improvement

#Sacral decubitus stage II ulcer (present on admission)
#Penile skin tear from condom catheter: Per RN notes, "mepilex 
to coccyx... scrotum excoriated, barrier cream applied. skin 
tear on underside of base of penis, barrier cream applied"
- Wound care was following 
- Foley was placed to help promote wound healing in setting of 
urinary incontinence, but should be removed as soon as feasible 
(from wound healing standpoint) to avoid UTI

#Sinus tachycardia: Mild, HR in ___ to low 100s

#Megaloblastic anemia: Stable
-B12 high/normal, suspect related to the patient's known bone 
marrow process, referred to outpatient hematologist/oncologist 
regarding the need for any further workup

#Mild coagulopathy: INR elevated
-Improved after vitamin K 2.5mg IV on ___

#Diarrhea
#H/o Clostridium difficile infection
-C. diff was negative
-Unclear what his loose stools are from, but his benign 
abdominal exam, normal white count, and lack of fever were all 
reassuring

#L MCA CVA ___ with residual R hemiplegia and aphasia
#Peripheral vascular disease with L ___ toe non-healing ulcer
-In ___ he had an angiogram of the left lower extremity to 
eval for possible revascularization in light of his non-healing 
left ___ toe ulcer. This was revealing for 50% stenosis of the 
popliteal artery (non-hemodynamically significant) and chronic 
occlusion of the left posterior tibial artery with some "spidery 
reconstitution" at the level of the ankle, and a diminutive 
anterior tibial artery. There was no hemodynamically significant 
lesion discovered to intervene upon. XR left foot to eval for 
underlying osteomyelitis was negative for evidence of osteo
-Wound care was following
-He is not on ASA or other secondary stroke prevention but he is 
on full dose anticoagulation

#Hypertension
-Home Diltiazem was held in the setting of sepsis and was not 
restarted since SBP was in ___

#Recurrent prior DVTs, with IVC filter (per ___ note)
#Possible prior arterial clotting
-Unsure if IVC filter is still in place, but presume it is
-He was not on any therapeutic anticoagulation at his skilled 
nursing facility, but we learned that he should have been on 
full dose enoxaparin, so this was started on ___.  The 
enoxaparin was briefly held ___, and was then 
restarted ___ evening.

#Resolved sepsis ___ HCAP with ongoing aspiration risk
-On admission, he was empirically started on meropenem, 
vancomycin, and azithromycin given his recent exposure to 
levofloxacin and risk for multidrug resistant organisms. 
However, these were stopped soon after admission due to lack of 
localizing evidence of infection. On ___, he became febrile, 
tachycardic, and tachypneic with a neutrophilic-predominant 
leukocytosis. CTA chest was performed which showed bibasilar 
consolidations consistent with pneumonia. Foot XR was negative 
for osteomyelitis underlying his chronic non-healing left ___ 
toe ulcer. UA was taken after the patient had received a dose of 
meropenem but there was no growth in the culture.
-Given negative MRSA screen, his vancomycin was stopped
-In addition given his stability/improvement and lack of any 
concerning culture results, he received 7 days of 
piperacillin-tazobactam (finished ___

#Incidental finding on CT A/P: "Extrahepatic biliary and main 
pancreatic duct dilation is of uncertain etiology, but a focal 
obstructing lesion is not identified on this study. This could 
be followed up with MRCP if felt clinically indicated."

#History of asthma
-Ipratropium-albuterol nebs as needed

#Concern for encephalopathy: Difficult to assess his mental 
status given aphasia. Per daughter he has had some memory 
problems since his stroke, but she has not felt he has been 
confused. On ___ in the evening he started to become slightly
agitated (taking oxygen off). SpO2 90-92% on room air. 
Redirectable and answering most questions appropriately. No 
obvious etiology for encephalopathy, although he has not had any 
head imaging during this admission. Given the concern for 
lymphoma it would be reasonable to get a CT head should he have 
any change in mental status or in his level of alertness -- 
acknowledging it could be difficult to interpret a CT of the 
head given his prior stroke. He was alert, answers questions 
with head
nods, and still difficult to assess for confusion but he has not 
been agitated or drowsy for days prior to discharge.

#Advance Care Planning
-Contacts/HCP/Surrogate and Communication: ___
-Code Status: full code

#TRANSITION OF CARE ISSUES:
- ___ CBC for monitoring of WBC and anemia around ___
- ___ BMP, Ca, Mg, Phos around ___ - may require repletion 
of electrolytes
- Ongoing sacral wound care
- Remove Foley as soon as possible (from wound healing 
standpoint) to reduce infection risk
- Ongoing tube feeds
- Determine if/when to resume home Diltiazem for HTN
- Follow up with outpatient hematologist/oncologist at ___ Dr. 
___

___ if applies: [ X ] Mr. ___ is clinically stable for 
discharge today. The total time spent today on discharge 
planning, counseling and coordination of care today was greater 
than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
3. Milk of Magnesia 30 mL PO Q6H:PRN Constipation - Second Line 
4. Fleet Enema (Saline) ___AILY:PRN constipation 
5. Heparin 5000 UNIT SC TID 
6. Diltiazem 30 mg PO TID 
7. ProMod Protein (protein supplement) 30 ML oral BID 
8. Levofloxacin 500 mg PO Q24H 
9. Sodium Chloride 1 gm PO DAILY 
10. GuaiFENesin 10 mL PO Q6H:PRN cough 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Enoxaparin Sodium 50 mg SC Q12H  
3.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN wheezing, 
shortness of breath  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
5.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
6.  GuaiFENesin 10 mL PO Q6H:PRN cough  
7.  Milk of Magnesia 30 mL PO Q6H:PRN Constipation - Second Line 
 
8. HELD- Diltiazem 30 mg PO TID  This medication was held. Do 
not restart Diltiazem until discussed with your primary care 
doctor

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
#Sepsis
#Healthcare-associated pneumonia, possible aspiration
#Dysphagia leading to severe protein calorie malnutrition 
requiring G-tube placement
#Smoldering IgG kappa multiple myeloma with diffuse 
lymphadenopathy, biopsy showing plasma cells, stable over the 
past ___ years and multiple prior biopsies
#History of prior left MCA stroke leading to significant 
residual aphasia and right-sided hemiplegia
#Hypertension
#Peripheral vascular disease with left third toe nonhealing 
ulcer
#Recurrent prior blood clots, on chronic lifelong 
anticoagulation
#Sacral ulcer
#Hyponatremia
#Sinus tachycardia
 
Discharge Condition:
Activity Status: Bedbound.
Mental Status: Clear and coherent, but difficult to assess due 
to aphasia and communicates with head nods mostly
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
You were admitted to the hospital for a change in mental status 
and fevers. You were found to have pneumonia and you were 
treated with antibiotics.  We also found that your swallowing 
function was no longer safe and that you were at risk of 
aspiration.  It is likely that aspiration led to the pneumonia 
that prompted your admission.

As a result of your problems swallowing, we also found that your 
nutritional status was not good, so after much discussion with 
you and your daughter, we placed a gastric feeding tube 
(G-tube), and started tube feeds.  This will allow you to get 
nutrition, hydration, and medications through the tube.  You 
will continue the tube feeds when you leave the hospital.

You were also found to have many enlarged lymph nodes throughout 
your body.  A biopsy was performed that showed that the enlarged 
lymph nodes were likely because of your known multiple myeloma.  
We recommend that you follow-up with your 
hematologist/oncologist at ___.

You were also treated for a sacral ulcer and our nurses have 
been changing the dressing to help keep this area clean and dry. 
 We also placed a urinary catheter temporarily to help keep the 
wound clean and dry as much as possible.  As the wound heals, 
the catheter will need to be removed, as it can be an infection 
risk the longer it stays in place.
 
Followup Instructions:
___